US08877744B2
The reaction of (R)-5-[5-(6-chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (164 mg, 359 μmol) with Lawesson's reagent (145 mg, 359 μmol) in 1,4-dioxane (3.5 ml) yielded the (R)-5-[5-(6-chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (148 mg, 87% yield) as a white solid. MS (ISP): m/z=473.0 [M+H]+ and 475.1 [M+2+H]+.

reactant | (R)-5-[5-(6-chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 359 μmol, 164 mg | ClC1=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=O)C)F)F)C=C1 | C21H17ClF4N2O3
reactant | Lawesson's reagent | 359 μmol, 145 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
product | (R)-5-[5-(6-chloro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 148 mg, 87% yield | ClC1=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=S)C)F)F)C=C1 | C21H17ClF4N2O2S
